US08389720B2
(4-hydroxytetrahydro-2H-pyran-4-yl)(phenyl)acetonitrile
To benzyl cyanide (1.970 ml, 19.39 mmol) was added THF (100 ml) and the solution cooled to −78° C. n-butyllithium (2.5 M in hexanes, 7.84 ml, 19.59 mmol) was added dropwise over 20 min via syringe pump and the solution stirred 30 min. Tetrahydro-4H-pyran-4-one (1.791 ml, 19.39 mmol) was added over 20 min via syringe pump and the solution stirred for 3 hours. The reaction was quenched by addition of ice-cold satd. NH4Cl and then partitioned between cold satd. NH4Cl and CH2Cl2. The aqueous portion was extracted 2×CH2Cl2, dried (Na2SO4), and concentrated in vacuo. Took up material in CH2Cl2 and allowed to crystallize over the weekend. The crystals were washed with diethyl ether and used without further purification. 3.14 g, 81%.

reactant | benzyl cyanide | 19.39 mmol, 1.970 ml | C(C1=CC=CC=C1)C#N | C8H7N
reactant | n-butyllithium | 19.59 mmol, 2.5 M, 7.84 ml | C(CCC)[Li]
reactant | Tetrahydro-4H-pyran-4-one | 19.39 mmol, 1.791 ml | O1CCC(CC1)=O | C5H8O2
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | (4-hydroxytetrahydro-2H-pyran-4-yl)(phenyl)acetonitrile | OC1(CCOCC1)C(C#N)C1=CC=CC=C1 | C13H15NO2
